US04001418
A mixture of 2-chloro-9,9-bis(2'-chloroethyl)-thioxanthene (0.9 g.), aqueous methylamine (10 ml.; 40% w/v.) and ethanol (15 ml.) is heated at 150° C. for 17 hours in a sealed tube. The cooled reaction mixture is diluted with water (50 ml.), basified with sodium bicarbonate solution and extracted with chloroform. The chloroform extract is dried (MgSO4), filtered, and evaporated. The residual gum (0.5 g.) is chromatographed on silica gel using ethanol/ethyl acetate (2:1) eluant. The product obtained after evaporation of the solvent is dissolved in ether, treated with an ethereal solution of oxalic acid, and the precipitated oxalate is dried at 80° C. in vacuo when there is obtained 2-chloro-1'-methylthioxanthene-9-spiro-4'-piperidine oxalate monohydrate (0.45 g.), m.p. 152°-155° C. (decomposition).

reactant | 2-chloro-9,9-bis(2'-chloroethyl)-thioxanthene | 0.9 g | ClC1=CC=2C(C3=CC=CC=C3SC2C=C1)(CCCl)CCCl | C17H15Cl3S
reactant | methylamine | 10 ml | CN | CH5N
reactant | ethanol | 15 ml | C(C)O | C2H6O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | water | 50 ml | O | H2O
product | 2-chloro-1'-methylthioxanthene-9-spiro-4'-piperidine oxalate monohydrate | 0.45 g | O.C(C(=O)O)(=O)O.ClC1=CC2=C(C=C1)SC1=CC=CC=C1C21CCN(CC1)C | InChI=1S/C18H18ClNS.C2H2O4.H2O/c1-20-10-8-18(9-11-20)14-4-2-3-5-16(14)21-17-7-6-13(19)12-15(17)18;3-1(4)2(5)6;/h2-7,12H,8-11H2,1H3;(H,3,4)(H,5,6);1H2
